US08383629B2
A solution of tert-butyl 4-(3-bromo-2-iodo-N-(4-methoxybenzyl)benzamido)-5,6-dihydropyridine-1(2H)-carboxylate (30 g, 0.048 mol) in CH3CN (500 mL) was stirred for 0.5 h under nitrogen. K2CO3 (13 g, 0.096 mol), PPh3 (6 g, 20%), tetra-butylammonium chloride (15 g, 0.048 mol) and Pd(OAc)2 (3 g, 0.0048 mol) were added. The resulting mixture was heated to reflux for 12 h. The mixture was poured into water and extracted with EtOAc. The organic layer was dried and concentrated to give the crude product which was purified by column chromatography to afford tert-butyl 7-bromo-2-(4-methoxybenzyl)-3-oxo-2′,3′-dihydro-1′H-spiro[isoindoline-1,4′-pyridine]-1′-carboxylate (12 g, 50%). 1H NMR: (400 MHz, CDCl3): δ=1.51 (s, 9H), 1.73 (m, 2H), 2.83-3.08 (m, 2H), 3.79 (s, 3H), 4.00 (m, 1H), 4.30 (m, 1H), 4.42 (d, 1H), 5.02 (d, 1H), 6.83 (d, 2H), 7.201 (d, 2H), 7.45 (m, 1H), 7.70 (d, 1H), 7.88 (d, 1H).

reactant | tert-butyl 4-(3-bromo-2-iodo-N-(4-methoxybenzyl)benzamido)-5,6-dihydropyridine-1(2H)-carboxylate | 0.048 mol, 30 g | BrC=1C(=C(C(=O)N(CC2=CC=C(C=C2)OC)C2=CCN(CC2)C(=O)OC(C)(C)C)C=CC1)I | C25H28BrIN2O4
reactant | K2CO3 | 0.096 mol, 13 g | C(=O)([O-])[O-].[K+].[K+]
reactant | PPh3 | 6 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | water | O | H2O
solvent | CH3CN | 500 mL | CC#N | C2H3N
catalyst | tetra-butylammonium chloride | 0.048 mol, 15 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | Pd(OAc)2 | 0.0048 mol, 3 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | tert-butyl 7-bromo-2-(4-methoxybenzyl)-3-oxo-2′,3′-dihydro-1′H-spiro[isoindoline-1,4′-pyridine]-1′-carboxylate | 12 g, 50% | BrC=1C=CC=C2C(N(C3(CCN(C=C3)C(=O)OC(C)(C)C)C12)CC1=CC=C(C=C1)OC)=O | C25H27BrN2O4
